US05679352
Preparation of 1-t-Butyldimethylsilyloxy-6-cyano-hexane (compound X2, FIG. 14)
Sodium cyanide (1.2 g) dissolved in dimethylsulphoxide was heated at 90° C. for 30 min. Solid 1-t-butyldimethylsilyloxy-6-bromohexane (5.8 g, compound X1) prepared according to the method previously described (ref. 37), then was added into the sodium cyanide solution. After heating at 120°-130 C. for 20-180 min, the reaction mixture was poured into ice-cold water and the aqueous layer was extracted with ether, washed with brine, dried and concentrated. The product was distilled at 0.5 Torr and 107° C. to give a colourless oil. High resolution mass spectrometer for C12 H24 O N Si: calculated 226.1627, found 226.1624.

reactant | Sodium cyanide | 1.2 g | [C-]#N.[Na+]
reactant | 1-t-butyldimethylsilyloxy-6-bromohexane | 5.8 g | [Si](C)(C)(C(C)(C)C)OCCCCCCBr | C12H27BrOSi
solvent | dimethylsulphoxide | CS(=O)C | C2H6OS
product | 1-t-Butyldimethylsilyloxy-6-cyano-hexane | [Si](C)(C)(C(C)(C)C)OCCCCCCC#N | C13H27NOSi
